US06013662
A 1.6 N solution of n-butyllithium in hexane was run dropwise into a solution, cooled to the region of -70° C., of 33 g (0.220 mol) of (RS)-2-phenylpropionic acid in 220 cm3 of tetrahydrofuran and of 44 cm3 of N,N'-tetramethylethylenediamine. After having stirred the reaction mixture for three hours at -70° C., the reaction mixture was returned to a temperature in the region of 20° C. and the solution obtained was run into a solution of 75 cm3 (0.55 mol) of ethyl oxalate in 110 cm3 of tetrahydrofuran, the temperature being maintained at -75° C., for 1 hour. The reaction mixture was hydrolysed with 800 cm3 of a saturated aqueous sodium hydrogencarbonate solution, extracted with three times 100 cm3 of ethyl acetate, washed with three times 50 cm3 of a normal aqueous hydrochloric acid solution, dried over sodium sulphate and concentrated under reduced pressure. 44 g (97%) of ethyl(RS)-2-oxo-3-phenylbutyrate were then obtained in the form of an orange oil, the characteristics of which were as follows:

reactant | n-butyllithium | C(CCC)[Li]
reactant | (RS)-2-phenylpropionic acid | 0.220 mol, 33 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | N,N'-tetramethylethylenediamine | 44 cm3 | CN(CCN(C)C)C | C6H16N2
reactant | ethyl oxalate | 0.55 mol, 75 cm3 | C(C(=O)[O-])(=O)OCC
reactant | sodium hydrogencarbonate | 800 cm3 | C(O)([O-])=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 220 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 cm3 | O1CCCC1 | C4H8O
product | ethyl(RS)-2-oxo-3-phenylbutyrate | 44 g, 97% | O=C(C(=O)OCC)C(C)C1=CC=CC=C1 | C12H14O3
